US07989438B2
Step 7: methyl 3-cyclohexyl-2-[2-hydroxy-4-(pyridin-2-ylmethoxy)phenyl]-1H-indole-6-carboxylate
Methyl 3-cyclohexyl-2-[2-(methoxymethoxy)-4-(pyridin-2-ylmethoxy)phenyl]-1H-indole-6-carboxylate was dissolved in MeOH (0.5 M). 3N HCl (2 eq) was added, followed by more MeOH. The mixture was warmed to 80° C. for 6 h. By this time a clear solution had formed. All volatiles were evaporated in vacuo and the residual material was dissolved in DCM. The solution was washed with sat. aq. NaHCO3 and brine. After drying over Na2SO4 all volatiles were evaporated in vacuo leaving a beige amorphous solid (quant). (ES+) m/z 457 (M+H)+.

reactant | Methyl 3-cyclohexyl-2-[2-(methoxymethoxy)-4-(pyridin-2-ylmethoxy)phenyl]-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OCC1=NC=CC=C1)OCOC | C30H32N2O5
reactant | HCl | 3N, 2 eq | Cl | ClH
solvent | MeOH | 0.5 M | CO | CH4O
product | methyl 3-cyclohexyl-2-[2-hydroxy-4-(pyridin-2-ylmethoxy)phenyl]-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OCC1=NC=CC=C1)O | C28H28N2O4
